US09107916B2
A. 2-[3-(3-chlorophenyl)-5-hydroxypyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared in 53% yield from 2-hydrazinylpyridine-4-carbonitrile (PREPARATION 2) and ethyl 3-(3-chlorophenyl)-3-oxopropanoate according to the procedure for the preparation of Example 158, part A.

reactant | 2-hydrazinylpyridine-4-carbonitrile | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | ethyl 3-(3-chlorophenyl)-3-oxopropanoate | ClC=1C=C(C=CC1)C(CC(=O)OCC)=O | C11H11ClO3
product | 2-[3-(3-chlorophenyl)-5-hydroxypyrazol-1-yl]pyridine-4-carbonitrile | 53% yield | ClC=1C=C(C=CC1)C1=NN(C(=C1)O)C1=NC=CC(=C1)C#N | C15H9ClN4O
